.model jj0 jj(rtype = 2 icrit=225uA cap=450.0000fF)
.model jj1 jj(rtype = 2 icrit=250uA cap=600.0000fF)
.model jj2 jj(rtype = 2 icrit=160uA cap=600.0000fF)

* Generated by Xic from cell noname
BJ1 8 54 95 jj2 
BJ2 19 65 101 jj1 
BJ3 30 76 106 jj1 
BJ4 42 87 111 jj1 
BJJ1A 5 49 91 jj1 
BJJ1B 16 60 98 jj1 
BJJ1C 27 71 103 jj1 
BJJ1D 39 82 108 jj1 
BJJ2A 6 50 92 jj1 
BJJ2B 17 61 99 jj1 
BJJ2C 28 72 104 jj1 area=1
BJJ2D 40 83 109 jj1 area=1
BJJ3A 7 52 93 jj1 area=1
BJJ3B 18 63 100 jj1 area=1
BJJ3C 29 74 105 jj1 area=1
BJJ3D 41 85 110 jj1 area=1
K1 L4 LN4 1
K2 L1 LN1 1
K3 L2 LN2 1
K4 L3 LN3 1
L1 8 0 10 nH
L2 19 0 10 nH
L3 30 0 10 nH
L4 42 0 10 nH
L11 54 12 0.05 pH
L12 55 12 0.955 pH
L13 12 0 0.096 pH
L21 65 23 0.05 pH
L22 66 23 0.955 pH
L23 23 0 0.096 pH
L31 76 35 0.05 pH
L32 77 35 0.955 pH
L33 35 0 0.096 pH
L41 87 46 0.05 pH
L42 88 46 0.955 pH
L43 46 0 0.096 pH
LJ11A 49 4 0.058e-12 H
LJ11B 60 15 0.058 pH
LJ11C 71 26 0.058pH
LJ11D 82 38 0.058pH
LJ12A 56 4 0.945e-12 H
LJ12B 67 15 0.945 pH
LJ12C 78 26 0.945pH
LJ12D 89 38 0.945pH
LJ13A 3 4 0.355e-12 H
LJ13C 70 26 0.355pH
LJ13D 81 38 0.355pH
LJ21A 50 10 0.05e-12 H
LJ21B 61 21 0.05pH
LJ21C 72 33 0.05pH
LJ21D 83 44 0.05pH
LJ22A 51 10 0.955e-12 H
LJ22B 62 21 0.955pH
LJ22C 73 33 0.955pH
LJ22D 84 44 0.955pH
LJ23A 10 0 0.096e-12 H
LJ23B 21 0 0.096pH
LJ23C 33 0 0.096pH
LJ23D 44 0 0.096pH
LJ31A 52 11 0.028e-12 H
LJ31B 63 22 0.028 pH
LJ31C 74 34 0.028pH
LJ31D 85 45 0.028pH
LJ32A 53 11 0.961e-12 H
LJ32B 64 22 0.961 pH
LJ32C 75 34 0.961pH
LJ32D 86 45 0.961pH
LJ33A 11 0 0.103e-12H
LJ33B 22 0 0.103pH
LJ33C 34 0 0.103pH
LJ33D 45 0 0.103pH
LN0 32 0 1 nH
LN1 0 9 10 nH
LN2 9 20 10 nH
LN3 20 31 10 nH
LN4 31 43 10 nH
LN5 43 32 2 nH
LQ1A 2 3 1.071e-12 H
LQ1B 14 59 1.071 pH
LQ1C 25 70 1.071pH
LQ1D 37 81 1.071pH
LQ2A 3 0 3.927e-12 H
LQ2B 59 0 3.927 pH
LQ2C 70 0 3.927pH
LQ2D 81 0 3.927pH
LQ3A 5 6 0.913e-12 H
LQ3B 16 17 0.913pH
LQ3C 27 28 0.913pH
LQ3D 39 40 0.913pH
LQ4A 6 7 4.399e-12 H
LQ4B 17 18 4.399pH
LQ4C 28 29 4.399pH
LQ4D 40 41 4.399pH
LQ5A 7 8 1.09e-12 H
LQ5B 18 19 1.09 pH
LQ5C 29 30 1.090pH
LQ5D 41 42 1.09pH
LV1A 47 5 16.8e-12
LV1B 57 16 16.8pH
LV1C 68 27 16.8pH
LV1D 79 39 16.8pH
LV2A 48 7 15.5e-12 H
LV2B 58 18 15.5pH
LV2C 69 29 15.5pH
LV2D 80 41 15.5pH
R1 8 55 0.766
R2 19 66 0.766
R3 30 77 0.766
R4 42 88 0.766
RJ1A 5 56 0.766
RJ1B 16 67 0.766
RJ1C 27 78 0.766
RJ1D 39 89 0.766
RJ2A 6 51 0.766
RJ2B 17 62 0.766
RJ2C 28 73 0.766
RJ2D 40 84 0.766
RJ3B 18 64 0.688
RJ3C 29 75 0.688
RJ3D 41 86 0.688
RV1A 1 47 9.09
RV1B 13 57 9.09
RV1C 24 68 9.09
RV1D 36 79 9.09
RV2A 1 48 14.29
RV2B 13 58 14.29
RV2C 24 69 14.29
RV2D 36 80 14.29
VQA 1 0 2.5e-3V
VQB 13 0 2.5mV
VQC 24 0 2.5mV
VQD 36 0 2.5mV
.model jj1 jj(rtype=1, cct=1, icon=10m, vg=2.8m, delv=0.08m,
+ icrit=1m, r0=30, rn=1.7, cap=123.3p)

.save @IA[c]
.save @IB[c]
.save @IC[c]
.save @ID[c]
